### PR TITLE
minor generalization

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

This generalizes `bigcupT_measurable_rat`to any `choiceType` whose whole set is countable.
I didn't prove a version with `countType` because I didn't manage to generalize the
`quasi_canonical` machinery. Anyway, that doesn't make the lemma less general. @CohenCyril 

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/measure.v [hunk 1]
```diff
@@ -1390,11 +1390,22 @@ Qed.
 
 End sigma_ring_lambda_system.
 
+Lemma countable_bigcupT_measurable d (T : sigmaRingType d) (U : choiceType)
+    (F : U -> set T) : countable [set: U] ->
+  (forall i, measurable (F i)) -> measurable (\bigcup_i F i).
+Proof.
+elim/choicePpointed: U => U in F *.
+  by move=> _ _; rewrite empty_eq0 bigcup0.
```
Comment (CohenCyril) [inline theories/measure.v:1398]: Actually there is no reason to assume a choice type (it is not used in the statement), so I would do:
```suggestion
Lemma countable_bigcupT_measurable d (T : sigmaRingType d) U
    (F : U -> set T) : countable [set: U] ->
  (forall i, measurable (F i)) -> measurable (\bigcup_i F i).
Proof.
elim/Ppointed: U => U in F *; first by move=> *; rewrite empty_eq0 bigcup0.
```
